US08293768B2
Synthesis of ethyl 2-(3-(isoquinolin-1-ylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with 1-(bromomethyl)isoquinoline to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained as a colorless solid in 85% yield: MS (ES+) m/z 397.2 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 1-(bromomethyl)isoquinoline | BrCC1=NC=CC2=CC=CC=C12 | C10H8BrN
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 2-(3-(isoquinolin-1-ylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 85% yield | C1(=NC=CC2=CC=CC=C12)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C20H20N4O3S
